2100-10-14 07:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2100-10-13**] 10:46 AM
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2100-10-13**] 08:09 PM
   Aztreonam - [**2100-10-14**] 02:12 AM
   Metronidazole - [**2100-10-14**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-10-14**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 64 (64 - 84) bpm
   BP: 116/57(73) {86/49(65) - 121/66(85)} mmHg
   RR: 17 (13 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 13 (10 - 223)mmHg
   Total In:
                                                                  3,971 mL
                                                                    451 mL
   PO:
   TF:
   IVF:
                                                                  2,858 mL
                                                                    330 mL
   Blood products:
                                                                    713 mL
                                                                    120 mL
   Total out:
                                                                  3,005 mL
                                                                    975 mL
   Urine:
                                                                  1,730 mL
                                                                    375 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                    966 mL
                                                                   -524 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress,
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, PEG C/D/I
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : bases, Diminished: left
   base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended but not
   fluid filled
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm,
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful,  A+ O x
   3
   Labs / Radiology
   9.8 g/dL
   36 K/uL
   154 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.7 mEq/L
   33 mg/dL
   108 mEq/L
   141 mEq/L
   27.1 %
   7.4 K/uL
        [image002.jpg]
                            [**2100-10-13**]  12:07 AM
                            [**2100-10-13**]  02:52 AM
                            [**2100-10-13**]  03:05 AM
                            [**2100-10-13**]  12:00 PM
                            [**2100-10-13**]  04:47 PM
                            [**2100-10-13**]  06:00 PM
                            [**2100-10-13**]  07:19 PM
                            [**2100-10-14**]  04:51 AM
   WBC
   19.1
   17.8
   5.4
   6.0
   7.4
   Hct
   36.5
   35.2
   25.7
   26.0
   27.1
   Plt
   97
   96
   48
   46
   36
   Cr
   1.2
   1.2
   1.1
   1.1
   TCO2
   29
   Glucose
   153
   184
   135
   158
   143
   154
   Other labs: PT / PTT / INR:19.4/46.7/1.8, ALT / AST:84/64, Alk Phos / T
   Bili:129/7.3, Differential-Neuts:91.3 %, Lymph:4.7 %, Mono:3.6 %,
   Eos:0.1 %, Lactic Acid:1.7 mmol/L, Albumin:3.5 g/dL, LDH:408 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   57M with history of hepatitis C cirrhosis, presenting with likely
   hepatic encephalopathy, now hypotensive requiring MICU admission.
   .> Hypotension. History of chills, leukocytosis and now with
   hypothermia in ED.  Concerning for sepsis.  Possible infectious sources
   as below.  Patient also with previously documented grade III varices so
   at very high risk to GI bleed.  First hematocrit in ED slightly below
   baseline.  [**Month (only) 8**] also be dry from overdiuresis given recent increase in
   diuretic dosing.
   - Broad spectrum antibiotics - vanc and aztreonam for now (will need to
   ensure aztreonam with appropriate penetration into peritoneum - prelim
   from pharmacy is okay).  Also add flagyl to provide anaerobic coverage.
   - Urine and blood cultures with plan to try  perform paracentesis [**10-13**]
   although by report there is only small volume
   - Stool for C.diff given recent antibiotic exposure.  Consider KUB.
   - TTE in AM - eval endocarditis or any valvular abnormality to explain
   decreased BP.
   - Given recent prednisone exposure, start stress dose steroids -
   hydrocortisone 50 Q6H.
   .
   >Altered MS:   Likely hepatic encephalopathy in known cirrhotic
   patient.  Confusion with decreased attention; wife also reports ?neck
   drop (appears to be falling asleep), and gait difficulties in addition,
   but overall consistent with hepatic encephalopathy. Will perform head
   CT to rule out acute intra-cranial process. Other possibilities include
   seizures (sub clinical). If no improvement with lactulose then will
   need to consider EEG and neuro input. Urine and serum toxicology were
   negative. Will check serum osmolality and make sure no gap
   - check serum osmolality to (isopropyl etc) to ensure no osm gap.
   - Lactulose 60 ml Q2 until BM, then back off.
   - Followup head CT.
   - Consider neurology consult if not improving.
   - Hold mood altering meds. Consider haldol if agitated.
   .
   >Liver failure:  with transaminitis and an obstructed picture. Will f/u
   the read
   - Liver aware and will follow. Hep C viral load
   - Hold diuretics for now given hypotension.
   - Per wife, there had been some discussion of initiating transplant
   workup here (TTE, liver biopsy); will d/w liver team.
   .
   >Leukocytosis.  With chills, mild hypothermia, concerning for
   infection/sepsis.  UA negative; CXR without infiltrate.  Has history of
   IVDU, at risk for endocarditis/bacteremia if still using (though family
   denies).  Also need to strongly consider possibility of SBP.  Will
   check RUQ to evaluate the gallbladder given obstructed picture.
   - Blood, urine cultures.
   - Paracentesis via ultrasound guidance in AM
   - Cover with antibiotics as above and albumin for SBP
   - Will treat for presumed SBP; in light of renal impairment will also
   given albumin today 1.5 g/kg; 1 g/kg on day 3 if SBP confirmed.
   > Renal failure.  Unknown baseline (no priors at [**Hospital1 5**]).  Hypervolemic
   on exam, but likely intravascularly dry.  Also consider hepatorenal.
   Has been aggressively diuresed in last week or so, making prerenal
   likely with improvement in to 1.2 with hydration. Una is difficult to
   interpret in the setting of recent lasix dosing.
   - Collateral information for baseline.
   - Urine lytes.
   - Bolus as above
   > Thrombocytopenia.  Baseline low platelet counts (117-123 in past)
   with worsening at admission (72).  Likely low baseline related to liver
   disease/portal hypertension and splenomegaly.  Also consider worsening
   related to DIC from infection, med effect.
   - Check total protein and cyroglobulin
   - transfuse platelets if actively bleeding.
   > Hyponatremia.  Hypovolemic hyponatermia with cirrhosis.  [**Month (only) 8**] be
   worsened by recent increase in diuretic dosing.
   - Hold diuresis; support volume status with NS.
   - Recheck in AM.
   > Coagulopathy.  Likely elevation related to cirrhosis.
   - vitamin K x 3 day trial.
   - Continue to trend; FFP if evidence of active bleed.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2100-10-12**] 11:07 PM
   Multi Lumen - [**2100-10-12**] 11:08 PM
   Arterial Line - [**2100-10-13**] 02:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes

2100-10-14 07:53:00 Physician Resident Progress Note
Chief Complaint: hypotension
   - not enough ascites to safely tap
   - TSH, B12, folate normal
   - Echo performed: EF >75%, minimal AS, no vegetations
   - [**Name (NI) **] sono showed small ascites and patent portal vein
   - Levophed weaned off
   - Liver recs: hold diuretics, empiric antibiotics, r/o infection, give
   second dose of albumin
   - Records from [**Hospital3 291**] revealed previous admission for COPD
   exacerbation and empiric treatment for SBP (treatment with levaquin for
   7 days), treated with increasing diuresis, stable thrombocytopenia (
   70s-90s), stable hyponatremia (123-129),
   - had Hct drop --> got 1 unit of PRBCs
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2100-10-13**] 10:46 AM
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2100-10-13**] 08:09 PM
   Aztreonam - [**2100-10-14**] 02:12 AM
   Metronidazole - [**2100-10-14**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-10-14**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.7
C (96.3
   HR: 75 (64 - 84) bpm
   BP: 91/42(58) {86/42(58) - 121/66(85)} mmHg
   RR: 21 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 14 (10 - 223)mmHg
   Total In:
                                                                  3,971 mL
                                                                    575 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  2,858 mL
                                                                    334 mL
   Blood products:
                                                                    713 mL
                                                                    120 mL
   Total out:
                                                                  3,005 mL
                                                                    975 mL
   Urine:
                                                                  1,730 mL
                                                                    375 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                    966 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic),
   holosystolic SM unchanged
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   36 K/uL
   9.8 g/dL
   154 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.7 mEq/L
   33 mg/dL
   108 mEq/L
   141 mEq/L
   27.1 %
   7.4 K/uL
        [image002.jpg]
                            [**2100-10-13**]  12:07 AM
                            [**2100-10-13**]  02:52 AM
                            [**2100-10-13**]  03:05 AM
                            [**2100-10-13**]  12:00 PM
                            [**2100-10-13**]  04:47 PM
                            [**2100-10-13**]  06:00 PM
                            [**2100-10-13**]  07:19 PM
                            [**2100-10-14**]  04:51 AM
   WBC
   19.1
   17.8
   5.4
   6.0
   7.4
   Hct
   36.5
   35.2
   25.7
   26.0
   27.1
   Plt
   97
   96
   48
   46
   36
   Cr
   1.2
   1.2
   1.1
   1.1
   TCO2
   29
   Glucose
   153
   184
   135
   158
   143
   154
   Other labs: PT / PTT / INR:19.4/46.7/1.8, ALT / AST:84/64, Alk Phos / T
   Bili:129/7.3, Differential-Neuts:91.3 %, Lymph:4.7 %, Mono:3.6 %,
   Eos:0.1 %, Lactic Acid:1.7 mmol/L, Albumin:3.5 g/dL, LDH:408 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   57M with history of hepatitis C cirrhosis, presenting with likely
   hepatic encephalopathy, now hypotensive requiring MICU admission.
   .
   # Hypotension. History of chills, leukocytosis and now with hypothermia
   in ED.  Concerning for sepsis.  Possible infectious sources as below.
   Patient also with previously documented grade III varices so at very
   high risk to GI bleed.  First hematocrit in ED slightly below
   baseline.  [**Month (only) 8**] also be dry from overdiuresis given recent increase in
   diuretic dosing.
   - Recheck CBC now.
   - Broad spectrum antibiotics - vanc and aztreonam for now (will need to
   ensure aztreonam with appropriate penetration into peritoneum - prelim
   from pharmacy is okay).  Also add flagyl to provide anaerobic coverage.
   - Urine and blood cultures
   - CXR without infiltrate; reshoot film in AM following fluid
   resuscitation.
   - Stool for C.diff given recent antibiotic exposure.  Consider KUB.
   - TTE in AM - eval endocarditis or any valvular abnormality to explain
   decreased BP.
   - CVL in place, goal CVP 8-12, keep MAPs >60-65.
   - Bolus to meet above CVP goals, continue levophed for now and wean if
   tolerated.
   - ?Why so bradycardic with hypotension.  He is on beta blocker at home
   (will hold).  Sinus brady, no evidence of conduction defect.
   - Given recent prednisone exposure, start stress dose steroids -
   hydrocortisone 50 Q6H.
   .
   # Encephalopathy.  Likely hepatic encephalopathy in known cirrhotic
   patient.  Confusion with decreased attention; wife also reports ?neck
   drop (appears to be falling asleep), and gait difficulties in addition,
   but overall consistent with hepatic encephalopathy.
   - Lactulose 60 ml Q2 until BM, then back off.
   - Followup head CT.
   - Consider neurology consult if not improving.
   - Hold mood altering meds. Consider haldol if agitated.
   .
   # Cirrhosis.  Follows with Dr. [**Name (STitle) 2727**].
   - Liver aware and will follow.
   - Hold diuretics for now given hypotension.
   - Per wife, there had been some discussion of initiating transplant
   workup here (TTE, liver biopsy); will d/w liver team.
   .
   # Leukocytosis.  With chills, mild hypothermia, concerning for
   infection/sepsis.  UA negative; CXR without infiltrate.  Has history of
   IVDU, at risk for endocarditis/bacteremia if still using (though family
   denies).  Also need to strongly consider possibility of SBP.
   - Blood, urine cultures.
   - Paracentesis via ultrasound guidance in AM
   - Cover with antibiotics as above.
   - Will treat for presumed SBP; in light of renal impairment will also
   given albumin today 1.5 g/kg; 1 g/kg on day 3 if SBP confirmed.
   .
   # Renal failure.  Unknown baseline (no priors at [**Hospital1 5**]).  Hypervolemic
   on exam, but likely intravascularly dry.  Also consider hepatorenal.
   Has been aggressively diuresed in last week or so, making prerenal
   likely.
   - Collateral information for baseline.
   - Urine lytes.
   - Bolus as above
   .
   # Thrombocytopenia.  Baseline low platelet counts (117-123 in past)
   with worsening at admission (72).  Likely low baseline related to liver
   disease/portal hypertension and splenomegaly.  Also consider worsening
   related to DIC from infection, med effect.
   - Recheck CBC now
   - transfuse platelets if actively bleeding.
   .
   # Anemia.
   - recheck Hct now
   - guaiac stools.
   - folate, B12, TSH
   .
   # Hyponatremia.  Hypervolemic hyponatermia with cirrhosis.  [**Month (only) 8**] be
   worsened by recent increase in diuretic dosing.
   - Hold diuresis; support volume status with NS.
   - Recheck in AM.
   .
   # Coagulopathy.  Likely elevation related to cirrhosis.
   - vitamin K x 3 day trial.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2100-10-12**] 11:07 PM
   Multi Lumen - [**2100-10-12**] 11:08 PM
   Arterial Line - [**2100-10-13**] 02:15 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2100-10-15 07:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE
 D/C
   > received a 250 cc fluid bolus for MAP of 60 mmHg
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2100-10-14**] 04:00 AM
   Vancomycin - [**2100-10-14**] 08:00 AM
   Aztreonam - [**2100-10-14**] 10:00 AM
   Ceftriaxone - [**2100-10-14**] 03:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-10-15**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (96.9
   HR: 67 (65 - 83) bpm
   BP: 84/44(54) {75/25(35) - 112/55(69)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (10 - 19)mmHg
   Total In:
                                                                  1,768 mL
                                                                    250 mL
   PO:
                                                                    720 mL
   TF:
   IVF:
                                                                    928 mL
                                                                    250 mL
   Blood products:
                                                                    120 mL
   Total out:
                                                                  2,155 mL
                                                                    282 mL
   Urine:
                                                                  1,055 mL
                                                                    282 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -387 mL
                                                                    -32 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l, Diminished:
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal.  A+O x 3
   Labs / Radiology
   9.1 g/dL
   35 K/uL
   114 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.5 mEq/L
   32 mg/dL
   110 mEq/L
   144 mEq/L
   26.4 %
   6.9 K/uL
        [image002.jpg]
                            [**2100-10-13**]  12:07 AM
                            [**2100-10-13**]  02:52 AM
                            [**2100-10-13**]  03:05 AM
                            [**2100-10-13**]  12:00 PM
                            [**2100-10-13**]  04:47 PM
                            [**2100-10-13**]  06:00 PM
                            [**2100-10-13**]  07:19 PM
                            [**2100-10-14**]  04:51 AM
                            [**2100-10-14**]  02:49 PM
                            [**2100-10-15**]  04:07 AM
   WBC
   19.1
   17.8
   5.4
   6.0
   7.4
   6.6
   6.9
   Hct
   36.5
   35.2
   25.7
   26.0
   27.1
   27.3
   26.4
   Plt
   97
   96
   48
   46
   36
   35
   35
   Cr
   1.2
   1.2
   1.1
   1.1
   1.0
   TCO2
   29
   Glucose
   153
   184
   135
   158
   143
   154
   114
   Other labs: PT / PTT / INR:20.6/47.3/1.9, ALT / AST:75/45, Alk Phos / T
   Bili:114/5.9, Differential-Neuts:91.3 %, Lymph:4.7 %, Mono:3.6 %,
   Eos:0.1 %, Fibrinogen:73 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:3.1
   g/dL, LDH:358 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   57M with history of hepatitis C cirrhosis, presenting with likely
   hepatic encephalopathy, intermittently  hypotensive requiring MICU
   admission. Now with improved mental status and resolution of his
   hypotension
    >Hypotension: no clear infectious source (no fluid to tap, but still
   concern for SBP and he conts on treatment, compounded by possible over
   diuresis.
   - Will narrow coverage to ceftriaxone,as it is not clear that he is
   actively infected. He may  have had SBP in the past (not clear from OSH
   records, clx neg) with plan to complete 7 day course, day 1=[**10-12**].  He
   is receiving albumin therapy as well for his SBP.
   - Steroids stopped
    >Progressive decrease Hct:  no clear source from above or below. Will
   check periph smear, d bili retic and haptoglobin for evidence of
   hemolysis. No active bleeding at this time (trace guiac + stool).
   Seems very rapid for a med effect.  Plan for recheck of CBC this
   afternoon. He does not appear to be retic
ng,. His ferritin is quite
   high possibly suggestive of possible hemachromatosis. Notably B12 and
   folate normal.
   - recheck CBC, transfuse for Hct <25, plt <20 (unless active bleeding0
   >Altered MS:   Likely hepatic encephalopathy in known cirrhotic
   patient, improvement with lactulose now A+O x 3.
   - standing lactulose, consider addition of rifaximin
   >Liver failure:  thought to be [**12-26**] HepC and EtOH with transaminitis and
   increased alk phos and bilirubin, no evidence of obstruction on the
   RUQ. His transaminitis conts to improve.   His AFP may warrant repeat
   testing despite his previous hx of elevated AFP. His elevated ferritin
   is also interesting concerning for hemachromatosis
   - Liver aware and will follow. Hep C viral load
   - Hold diuretics for now given hypotension recently and consider
   restart within the next 24 hrs.
   > Renal failure.  Unknown baseline (no priors at [**Hospital1 5**]).  Hypervolemic
   on exam, but likely intravascularly dry.  Also consider hepatorenal.
   Has been aggressively diuresed in last week or so, making prerenal
   likely with improvement in to 1.2 with hydration. Una is difficult to
   interpret in the setting of recent lasix dosing. He has improved
   markedly with gentle hydration
   > Thrombocytopenia.  Baseline low platelet counts (117-123 in past)
   with worsening at admission (72).  Likely low baseline related to liver
   disease/portal hypertension and splenomegaly.  Also consider worsening
   related to DIC from infection, med effect (aztreonam and PPI).  It is
   difficult to determine whether this DIC in the setting of his liver
   failure, we will continue to trend. We have stopped potentially
   offending medications and his plts [**10-15**] are no worse.
   - F/u total protein and cyroglobulin
   - transfuse platelets if actively bleeding.
   - cont to follow DIC
   - change back to omeprazole (? Lansoprazole with higher incidence of
   thromb)
    > Coagulopathy.  Likely elevation related to cirrhosis.
   - vitamin K x 3 day trial.
   - Continue to trend; FFP if evidence of active bleed.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2100-10-12**] 11:07 PM
   Multi Lumen - [**2100-10-12**] 11:08 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2100-10-15 07:38:00 Physician Resident Progress Note
Chief Complaint: hypotension
   24 Hour Events:
 ARTERIAL LINE - STOP [**2100-10-14**] 12:00 PM
   - Liver recs - 2nd dose albumin, continue lactulose
   - cxr read from [**10-14**]: increase in bibasilar atelectasis, no pna
   - OSH records: 642 whites (6% nphils)
   - DC'ed vanco/aztreo (pcn allergy) - changed to ceftriaxone for SBP
   treatment, tentative plan for 7d course
   - hemolysis labs: retic count 3.0, hapto<20, repeat hct - 27, FDP (-),
   fibrinogen low at 87, no schistocytes
   - trending platelets - stable at 35
   - ordered for 1g/kg albumin = 90g in am [**10-15**]
   - MAPs running borderline low ~60 - 250cc bolus at 630am
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2100-10-14**] 04:00 AM
   Vancomycin - [**2100-10-14**] 08:00 AM
   Aztreonam - [**2100-10-14**] 10:00 AM
   Ceftriaxone - [**2100-10-14**] 03:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-10-15**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (96.9
   HR: 67 (65 - 83) bpm
   BP: 84/44(54) {75/25(35) - 112/55(69)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (10 - 19)mmHg
   Total In:
                                                                  1,768 mL
                                                                    250 mL
   PO:
                                                                    720 mL
   TF:
   IVF:
                                                                    928 mL
                                                                    250 mL
   Blood products:
                                                                    120 mL
   Total out:
                                                                  2,155 mL
                                                                    282 mL
   Urine:
                                                                  1,055 mL
                                                                    282 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -387 mL
                                                                    -32 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   35 K/uL
   9.1 g/dL
   114 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.5 mEq/L
   32 mg/dL
   110 mEq/L
   144 mEq/L
   26.4 %
   6.9 K/uL
        [image002.jpg]
                            [**2100-10-13**]  12:07 AM
                            [**2100-10-13**]  02:52 AM
                            [**2100-10-13**]  03:05 AM
                            [**2100-10-13**]  12:00 PM
                            [**2100-10-13**]  04:47 PM
                            [**2100-10-13**]  06:00 PM
                            [**2100-10-13**]  07:19 PM
                            [**2100-10-14**]  04:51 AM
                            [**2100-10-14**]  02:49 PM
                            [**2100-10-15**]  04:07 AM
   WBC
   19.1
   17.8
   5.4
   6.0
   7.4
   6.6
   6.9
   Hct
   36.5
   35.2
   25.7
   26.0
   27.1
   27.3
   26.4
   Plt
   97
   96
   48
   46
   36
   35
   35
   Cr
   1.2
   1.2
   1.1
   1.1
   1.0
   TCO2
   29
   Glucose
   153
   184
   135
   158
   143
   154
   114
   Other labs: PT / PTT / INR:20.6/47.3/1.9, ALT / AST:75/45, Alk Phos / T
   Bili:114/5.9, Differential-Neuts:91.3 %, Lymph:4.7 %, Mono:3.6 %,
   Eos:0.1 %, Fibrinogen:73 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:3.1
   g/dL, LDH:358 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   57M with history of hepatitis C cirrhosis, presenting with likely
   hepatic encephalopathy, admitted hypotensive requiring pressors, now
   improved.
   .
   # Hypotension. chills, leukocytosis, hypothermia in ED.  Concerning for
   sepsis.  Possible infectious sources include SBP.  No evidence of GIB
   though now with Hct drop.  [**Month (only) 8**] also have been dry from overdiuresis
   given recent increase in diuretic dosing.  Now off pressors.
   - follow hematocrits today.
   - Change antibiotics to SBP coverage alone
 ceftrixone; blood, urine,
   c.diff, pulmonary sources negative.
   - ?second albumin dose for SBP treatment (due tomorrow early AM
   hours).  No enough fluid to safely tap, but had para ~ 1 week ago.
   - Keep CVL for now..
   - Continue to hold lasix and propanolol for today given recent
   hypotension.
   - Can d/c steroids.
   .
   # Anemia.  Hct drop by 10 points since admission, ?baseline (38-39 here
   in past).  Guaiac positive but not grossly so.  Also with worsening
   thrombocytopenia and dropping WBC count.  Also consider
   hemolysis/[**Doctor First Name 2079**].  Bumped not quite appropriately to 1 unit PRBCs
   overnight.
   -          hemolysis workup
   -          repeat hct early afternoon.
   -          Stopping antibiotics, ?med effect leading to pancytopenia.
   -          Check peripheral smear.
   .
   # Encephalopathy.  Hepatic encephalopathy in known cirrhotic patient.
   - Lactulose TID plus prn to maintain at least [**1-26**] BM/day
   - ?why not on rifaximin
 will d/w liver.
   .
   # Cirrhosis.  Follows with Dr. [**Name (STitle) 2727**].
   - Liver following.
   - Resume diuretics tomorrow.
   .
   # Renal failure.  Now improved to 1.1.  Continue to follow.
   .
   # Thrombocytopenia.  Baseline low platelet counts (117-123 in past)
   with worsening at admission (72); past OSH admission with platelets in
   70-90 range.  Likely low baseline related to liver disease/portal
   hypertension and splenomegaly.  Worsening overnight - ?med effect vs.
   consumption vs. dilutional vs. DIC (INR also relatively up, though
   infection seems to be improving).
   - Recheck this afternoon.
   - stopping meds as above.
   .
   # Hyponatremia.  Hypervolemic hyponatermia with cirrhosis.  [**Month (only) 8**] be
   worsened by recent increase in diuretic dosing.
   - Hold diuresis another day and continue to trend.
   .
   # Coagulopathy.  Likely elevation related to cirrhosis. Slight
   worsening with ?DIC as above.
   - vitamin K x 3 day trial.
   - recheck today.
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2100-10-12**] 11:07 PM
   Multi Lumen - [**2100-10-12**] 11:08 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2100-10-17 08:00:00 Physician Resident Progress Note
Chief Complaint: liver failure, hypotension
   24 Hour Events:
   Not called out due to hypotension overnight on the night before.
   Had mild epistaxis in AM --> transfused 1 bag of platelets but plts did
   not reponsd appropriately ( 35 --> 40)
   Hct stable 25.2 --> 25.1
   BP stable overnight
   Urine culture pending
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2100-10-14**] 08:00 AM
   Aztreonam - [**2100-10-14**] 10:00 AM
   Ceftriaxone - [**2100-10-16**] 04:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2100-10-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-10-17**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 91 (86 - 105) bpm
   BP: 93/54(63) {82/50(56) - 112/68(76)} mmHg
   RR: 22 (15 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  2,394 mL
                                                                    450 mL
   PO:
                                                                  1,560 mL
                                                                    450 mL
   TF:
   IVF:
                                                                    550 mL
   Blood products:
                                                                    284 mL
   Total out:
                                                                    750 mL
                                                                    250 mL
   Urine:
                                                                    750 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,644 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Oriented (to): p, p, t,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   40 K/uL
   8.6 g/dL
   86 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.7 mEq/L
   16 mg/dL
   106 mEq/L
   137 mEq/L
   24.3 %
   5.6 K/uL
        [image002.jpg]
                            [**2100-10-13**]  07:19 PM
                            [**2100-10-14**]  04:51 AM
                            [**2100-10-14**]  02:49 PM
                            [**2100-10-15**]  04:07 AM
                            [**2100-10-15**]  03:06 PM
                            [**2100-10-15**]  11:24 PM
                            [**2100-10-16**]  03:38 AM
                            [**2100-10-16**]  10:54 AM
                            [**2100-10-16**]  03:46 PM
                            [**2100-10-17**]  04:07 AM
   WBC
   6.0
   7.4
   6.6
   6.9
   7.2
   7.4
   6.8
   7.0
   5.6
   Hct
   26.0
   27.1
   27.3
   26.4
   26.1
   24.4
   25.2
   25.1
   24.3
   Plt
   46
   36
   35
   35
   36
   32
   35
   40
   39
   40
   Cr
   1.1
   1.1
   1.0
   0.9
   0.8
   Glucose
   143
   154
   114
   93
   86
   Other labs: PT / PTT / INR:20.1/50.9/1.9, ALT / AST:48/30, Alk Phos / T
   Bili:122/6.3, Differential-Neuts:77.1 %, Lymph:16.2 %, Mono:5.6 %,
   Eos:0.9 %, Fibrinogen:87 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:3.1
   g/dL, LDH:294 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   57 year old male with hepatitis C cirrhosis admitted for altered mental
   status secondary to hepatic encephalopathy and hypotension requiring
   pressors.
   .
   1.  Hypotension.  Patient initially admitted to hypotension, chills,
   leukocytosis, hypothermia, concerning for sepsis.  No positive
   cultures, though treated empicirally for SBP given small ascites and
   abdominal pain.  Having gaiac positive stool, but not significant
   enough to result in hypotension.  Had low grade fever overnight.
   - follow hematocrits Q12H.
   - Ceftriaxone for SBP
   - Continue to hold lasix and propanolol for today.
   - f/u cultures
   .
   2.       Positive UA.  Patient has a positive UA, but cultures are
   pending.  Already on ceftriaxone, so will not change antibiotics at
   present.
   -          f/u urine culture
   .
   3.  Low grade fever.  Patient had temperature to 100.5 overnight.  No
   leukcotyosis.  Positive UA, but on ceftriaxone.  All other cultures
   negative.  Being treated empirically for SBP with ceftriaxone.
   - f/u cultlures
   - follow fever curve, WBC
   2.  Anemia.  Hct dropped on hospital day 2 by 10 point in setting of
   aggressive hydration.  Stools were trace guaiac positive.  Likely
   dilution plus small amounts of bleeding in setting of hepatic
   coaglatopathy (trace guiaic positive stools, epistaxis, phlebotomy).
   Low hapto and rising T. bili could be consistent with hemolysis, but
   difficult to interpret in liver patient.. DIC labs stable.   Hct has
   been stable.
   - [**Hospital1 **] Hcts
   3.       Thrombocytopenia.  Baseline platelets last week at OSH were
   70s to 90s, now with falling platelet count.   [**Month (only) 8**] be due to worsening
   liver disease and splenomegaly versus diluntional (Cr down from 1.6 to
   0.9).   Other possibilities are med effect, consumption, DIC.
   Received platelet transfusion in AM for epistaxis.
   - trend platelets
   .
   4.  Encephalopathy.  Initially admitted with altered mental status
   secondary to hepatic encephalopthay which improved with lactlose.
   - Lactulose TID plus prn to maintain at least [**1-26**] BM/day
   .
   5.  Cirrhosis.  Follows with Dr. [**Name (STitle) 2727**].
   - Liver following.
   - Hold diuretics another day.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2100-10-12**] 11:07 PM
   Multi Lumen - [**2100-10-12**] 11:08 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: